US06670474B2
1,4-Dimethylbenzene (10.6 g, 0.1 mol) was added dropwise to chlorosulfonic acid (60 g, 0.51 mol ) at room temperature with stirring. After the addition was complete, the reaction mixture was heated to ˜100C for 1 hr, cooled to room temperature and poured onto ice-water-1,2-dichloromethane mixture with stirring. The organic layer was separated, washed with water (2×), dried over anhydrous MgSO4 and the solvent evaporated to give 2,5-dimethyl-1,3-benzenedisulfonyl chloride, 26 g (86%) as a viscous liquid that solidified on standing, mp 24-27° C. Reported 25-27C. (C. M. Suter, Organic Chemistry of Sulfur Compounds, Chapter 3).

reactant | 1,4-Dimethylbenzene | 0.1 mol, 10.6 g | CC1=CC=C(C=C1)C | C8H10
reactant | chlorosulfonic acid | 0.51 mol, 60 g | ClS(=O)(=O)O | ClHO3S
product | 2,5-dimethyl-1,3-benzenedisulfonyl chloride | CC1=C(C=C(C=C1S(=O)(=O)Cl)C)S(=O)(=O)Cl | C8H8Cl2O4S2
